US07449477B2
7-(3-difluoromethylphenyl)-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide
Suspend {2-[7-(3-difluoromethylpheny)-isoquinoline-5-sulfonylamino]-ethyl}-carbamic acid tert-butyl ester in ethyl acetate (11 mL), and add an excess of 4 M HCl in 1,4-dioxane. Stir overnight, filter the precipitate, wash with dichloromethane, and dry under vacuum to give the desired compound as a white solid (0.092 g, 95% yield): 1H NMR (CD3OD): δ9.92 (s, 1H), 9.10 (d, J=7.0 Hz, 1H), 9.04 (m, 2H), 8.80 (d, J=7.0 Hz, 1H), 8.09 (m, 2H), 7.74 (m, 2H), 6.94 (t, J=52.1 Hz, 1H), 3.25 (m, 2H), 3.15 (m, 2H). Load the product onto ion exchange resin and elute with 1N NH3 in methanol and concentrate to dryness to give the free base. (Used in example 97).

reactant | {2-[7-(3-difluoromethylpheny)-isoquinoline-5-sulfonylamino]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC(=CC=C1)C(F)F)=O | C23H25F2N3O4S
reactant | HCl | 4 M | Cl | ClH
solvent | ethyl acetate | 11 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 7-(3-difluoromethylphenyl)-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide | 0.092 g, 95% yield | NCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC(=CC=C1)C(F)F | C18H17F2N3O2S
